Colpitts Oscillator Simulation

* Biasing network
R1 1 2 10k
R2 0 1 10k
C3 0 1 10n

* Common-base amplifier
Q1 4 1 3

* LC resonant circuit
C1 3 2 100n
C2 4 3 100n
L1 4 2 30u

* Output coupling
C4 4 50.1u 

* Load impedance
RL 5 0 1M

* Power supply
Vcc 2 0 5

.tran 10m 1s
